### PR TITLE
Utility lemmas in filter.v

### PR DESCRIPTION
**Pull request by amolinamounier**
##### Motivation for this change

Split from #2023

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] ~~added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/filter.v [hunk 1]
```diff
@@ -937,6 +950,14 @@ Lemma eq_is_cvg (T : Type) (T' : pnbhsType) (F : set_system T) (f g : T -> T') :
   f =1 g -> cvg (f @ F) = cvg (g @ F).
 Proof. by move=> /funext->. Qed.
 
+Lemma near_eq_lim (T : Type) (T' : pnbhsType) {F : set_system T} {FF : Filter F} (f g : T -> T') :
+  {near F, f =1 g} -> lim (f @ F) = lim (g @ F).
+Proof. by move=> /near_eq_cvgE ->. Qed.
+
+Lemma cvg_to_eq {T : nbhsType} {F : set_system T} (l l' : T) :
```
Comment (affeldt-aist) [inline classical/filter.v]: That does not look very useful a priori.

Comment (amolinamounier) [reply classical/filter.v]: I found it useful in cases where the convergence is easy to close out with lemmas like `cvgD`, `cvgM` with an existential as the target, but where the end result needs some rewriting to be shown equal to the desired quantity, somewhat like `is_derive_eq`.

Comment (affeldt-aist) [reply classical/filter.v]: I think that `is_derive_eq` comes with typeclass instances so that when it is applied, it returns only one goal (the equality). Maybe this is a difference with `cvg_to_eq`?

Comment (affeldt-aist) [reply classical/filter.v]: What about we remove this lemma from this PR and defer its inclusion to a PR that actually uses it? (That would unlock this PR because the other lemmas looks ok to me.)

**Review by affeldt-aist — APPROVED** [review]
